US05270464
A mixture of 5.0 parts of 2,5-dichloro-3-nitrobenzoic acid and 16.2 parts of thionyl chloride was refluxed for 24 hours under argon. The reaction mixture was evaporated, yielding 4.74 parts (87.5%) of 2,5-dichloro-3-nitrobenzoyl chloride (interm. 66).

reactant | 2,5-dichloro-3-nitrobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1[N+](=O)[O-])Cl | C7H3Cl2NO4
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
product | 2,5-dichloro-3-nitrobenzoyl chloride | 87.5% | ClC1=C(C(=O)Cl)C=C(C=C1[N+](=O)[O-])Cl | C7H2Cl3NO3
